Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / atorvastatin / mirtazapine
 
Attending: ___.
 
Chief Complaint:
Fall with headstrike
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ female with dementia and recently 
diagnosed UTI on macrobid who presents as a transfer from OSH 
s/p mechanical fall with headstrike found to have small SAH. She 
was transferred to ___ for further management. The patient 
does not take any anticoagulation or antiplatelet medications. 

n speaking with the patient's daughters in the days leading up
to the fall she had been acting "unusual" in that she was often
saying things that did not make sense, more so than her 
baseline.
She was also have nighttime awakenings for unclear reasons. She
was taken to a local emergency room last weekend and has been
taking Macrobid since being diagnosed with a UTI. 

On the night of the ___, she was trying to leave her bedroom
when a family member ___ opened the door from the
otherside, knocking the patient backwards where she had a fall
with headstrike, ultimately diagnosed with a small SAH. 

At the moment she has some pain in her head and left lower
abdomen, but is otherwise smiling and laughing, recalling some
old jobs she used to have. The rest of the history is limited 
but
the family helps out and says she had not been having any other
unusual symptoms including fevers, chill, cough, diarrhea,
abdominal pain, or headache.

According to the family, she is somewhere around 50-70% of what
they would consider a baseline mental state. 
 
Past Medical History:
-Advanced Alzheimers dementia 
-Lower extremity neuropathy 
-Hypothyroidism 
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
===============
GCS upon Neurosurgery Evaluation: 14    Time of evaluation: 0800

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [x]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam: 

Gen: Thin elderly woman in no distress, appears comfortable.
HEENT: laceration at posterior head with staples in place
Neck: supple
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to self, DOB and her family members.
Overall confused, unable to report location or date. (Family
reports that at baseline, she would be able to report her
location but would not know the date)

Language: Speech is clear and fluent.

Cranial Nerves:
I: Not tested
II: Anisicoria L>R. L pupil 4-3mm, R pupil 3-2mm. Visual fields
are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus. At rest, patient has dysconjugate gaze, L ___ nerve
palsy (which is her baseline per family at bedside)
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hard of hearing.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Generalized weakness, no focal deficits. No abnormal movements,
tremors. No pronator drift

Sensation: Intact to light touch

DISCHARGE EXAM:
===============
GENERAL: Sitting up in bed, conversational, in NAD
HEENT: staples removed from posterior scalp. Anicteric sclera, 
MMM
CARDIAC: RRR, S1, S2, no murmurs/rubs/gallops
LUNG: CTAB, no wheezes or rales, breathing comfortably on room 
air  
ABDOMEN: Soft, non-distended, non-tender to palpation in all 
quadrants
NEURO: Oriented to self, recognizes this is a hospital and that 
we are in ___ but could not identify ___, not oriented to 
time even with prompting
EXTREMITIES: No ___ edema
SKIN: Warm, well-perfused, no rashes or lesions

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:00AM BLOOD WBC-9.7 RBC-4.17 Hgb-13.0 Hct-38.7 MCV-93 
MCH-31.2 MCHC-33.6 RDW-13.7 RDWSD-46.6* Plt ___
___ 06:00AM BLOOD Plt ___
___ 07:30AM BLOOD ___ PTT-29.4 ___
___ 06:00AM BLOOD Glucose-86 UreaN-7 Creat-0.6 Na-137 K-4.1 
Cl-100 HCO3-23 AnGap-14
___ 09:20AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.7
___ 06:24AM BLOOD Lactate-1.1

DISCHARGE LABS:
===============
___ 07:35AM BLOOD WBC-7.7 RBC-4.23 Hgb-12.8 Hct-38.6 MCV-91 
MCH-30.3 MCHC-33.2 RDW-13.6 RDWSD-45.7 Plt ___
___ 06:30AM BLOOD Calcium-9.0 Phos-3.7 Mg-1.9

STUDIES:
========
___ CT chest/abdomen/pelvis
IMPRESSION:
1. No evidence of intrathoracic, intra-abdominal or intrapelvic 
traumatic
injury. 2. Multiple areas of ground-glass opacities in the lung, 
the largest measuring 2.3 cm.  The finding is nonspecific and 
may represent infectious process. 
Please refer to the recommendation section for further 
evaluation.
3. No hydronephrosis or hydroureter on either side.  7 mm 
calcification
abutting the left posterior bladder wall at the level of left 
UVJ may be a phlebolith in the absence of proximal dilation.  
However, may also represent a nonobstructing UVJ stone.
4. Diverticulosis without evidence of acute inflammatory 
changes.
5. Multifocal ectasia of the heavily calcified abdominal aorta 
without
aneurysm by size criteria.
 
RECOMMENDATION(S): For incidentally detected multiple subsolid 
nodules
bigger than 6mm, CT follow-up in 3 to 6 months is recommended. 
Subsequent
management should be based on the most suspicious nodule(s).
 
See the ___ ___ Guidelines for the Management 
of Pulmonary Nodules Incidentally Detected on CT" for comments 
and reference: ___ with advanced Alzheimer's dementia and recent history of UTI 
on nitrofurantoin who presents after traumatic fall at home with 
headstrike, found to have small subarachnoid hemorrhage with no 
indication for acute neurosurgical intervention. She was 
discharged to rehab with follow up in ___ clinic.

ACUTE ISSUES:
=============
#Subarachnoid hemorrhage
#Traumatic fall
Patient presented to OSH after a family member ___ 
opened a door into her, causing her to fall backwards and strike 
her head. HCT/MRI at the OSH demonstrated a small subarachnoid 
hemorrhage, and she was transferred to ___ for further 
evaluation. Per Neurosurgery, there was no role for acute 
surgical intervention, seizure prophylaxis, or serial HCTs. 
Patient should follow up with the Neurology ___ clinic. Per 
collateral, the fall was mechanical in nature and did not rise 
concern for preceding cardiac or neurogenic event. Physical 
Therapy recommended rehab.

#Encephalopathy
#Alzheimer's dementia, chronic
Throughout the course of her hospital stay, the patient was 
noted to have episodes of sundowning, likely in the setting of 
hospital-acquired delirium compounding chronic dementia. 
Delirium precautions were taken. Patient was reportedly 
diagnosed with UTI on ___ and presented on nitrofurantoin; 
however, her UA on this admission was bland, making it less 
likely that acute infection was contributing to her fluctuating 
mental state. She also remained afebrile and without 
leukocytosis or localizing signs/symptoms. Her neurological exam 
otherwise remained stable over her hospital course. By the time 
of discharge, her family felt she was back at baseline.

#UTI
Patient was diagnosed with UTI at OSH ED on ___ and started on 
nitrofurantoin on ___. She reportedly had dysuria and 
encephalopathy that prompted an ED
evaluation. Repeat UA on this admission was bland. She was 
continued on her antibiotic course with nitrofurantoin 100mg 
q12h for a total of 5 days.

#Lung nodules
CT chest on admission demonstrated multiple areas of 
ground-glass opacities in the bilateral lungs. Per the report, 
"LUNGS/AIRWAYS: Paraseptal and centrilobular emphysema with 
pleuroparenchymal scarring is noted at the apex. Centrilobular 
emphysema is mild in the upper lobes. There is a 2.3 cm area of 
ground-glass opacity in the superior segment of the left lower 
lobe (03:50). In the right upper lobe, there is a 3 mm 
ground-glass opacity (03:50). Right lower lobe ground-glass 
opacity measures 1.2 cm (3:93). There is mild bibasilar 
atelectasis in the lower lobes. 2.4 cm cyst is seen adjacent to 
the mediastinum in the left upper lobe (3:60). A large cyst is 
seen at the inferior peripheral pleural surface of the right 
lower lobe. The airways are patent to the level of the segmental 
bronchi bilaterally." Please consider follow-up CT of lung 
nodules in ___ months.

CHRONIC ISSUES:
===============
#Hypothyroidism
- continued home levothyroxine 75mcg daily

#Depression
- continued home citalopram 5mg daily

TRANSITIONAL ISSUES:
====================
- Patient should follow up with the Neurology ___ clinic on 
***CARE CONNECT***.
- Please consider follow-up CT chest for evaluation of lung 
nodules in ___ months.

MEDICATION CHANGES:
===================
None

Contact: ___ (daughter), ___ 
Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO BID 
2. Citalopram 5 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Citalopram 5 mg PO DAILY  
2.  Gabapentin 300 mg PO BID  
3.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Subarachnoid hemorrhage

SECONDARY DIAGNOSES:
====================
Dementia
Delirium

 
Discharge Condition:
Patient is alert and interactive, but confused. She is oriented 
to self, but not place or time. Her activity is not limited, but 
caution should be used to minimize the risk of falls. She is at 
risk for falls given this recent event.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You fell and hit your head. You were found to have a small 
bleed in your brain at another hospital, and they transferred 
you here for further evaluation.

What did you receive in the hospital?  
- Our Neurosurgery team saw you and recommended no surgery or 
medications for the bleed.

What should you do once you leave the hospital?  
- Please continue to take all of your medications as prescribed.
- Please follow up with the traumatic brain injury clinic.
- Please work with physical therapy to get stronger and avoid 
future falls. 

- Instructions from the neurosurgical team are below:

Activity
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
- You may have difficulty paying attention, concentrating, and 
remembering new information.
- Emotional and/or behavioral difficulties are common. 
- Feeling more tired, restlessness, irritability, and mood 
swings are also common.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
- Headache is one of the most common symptom after a brain 
bleed. 
- Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
- Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
- There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- Nausea and/or vomiting
- Extreme sleepiness and not being able to stay awake
- Severe headaches not relieved by pain relievers
- Seizures
- Any new problems with your vision or ability to speak
- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
- Sudden numbness or weakness in the face, arm, or leg
- Sudden confusion or trouble speaking or understanding
- Sudden trouble walking, dizziness, or loss of balance or 
coordination
- Sudden severe headaches with no known reason

We wish you the best!  
Your ___ Care Team 
 
Followup Instructions:
___